US05981558
Synthesis of 4-Bromomethyl-5-(N-Boc-aminoisobutyryloxy)methyl-2-oxo-1,3-dioxolene (Compound S-33)
4,5-Dibromomethyl-2-oxo-1,3-dioxolene (188 mg, 0.69 mmol) was dissolved in acetonitrile (5.0 mL). Thereto were added 2-(N-Boc-amino)isobutyric acid (70 mg, 0.35 mmol) and potassium carbonate (48 mg, 0.35 mmol). This mixture was stirred at 25° C. for 18 hours. After the ordinary post-treatment, the reaction product was purified by thin-layer chromatography (developed with chloroform) to obtain Compound S-33 (50 mg, yield 18%).

reactant | 4,5-Dibromomethyl-2-oxo-1,3-dioxolene | 0.69 mmol, 188 mg | BrCC=1OC(OC1CBr)=O | C5H4Br2O3
reactant | 2-(N-Boc-amino)isobutyric acid | 0.35 mmol, 70 mg | C(=O)(OC(C)(C)C)NC(C(=O)O)(C)C | C9H17NO4
reactant | potassium carbonate | 0.35 mmol, 48 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
product | 4-Bromomethyl-5-(N-Boc-aminoisobutyryloxy)methyl-2-oxo-1,3-dioxolene | yield 18% | BrCC=1OC(OC1COC(C(C)(C)NC(=O)OC(C)(C)C)=O)=O | C14H20BrNO7
